US04628115
A mixture of 2.92 g of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, 2.91 g of methyl 5-bromopentanoate and 3.1 g of anhydrous potassium carbonate in 35 ml of anhydrous dimethyl formamide was stirred and heated at 75° for 16 hours. The usual workup followed by chromatography on 350 g of silica gel and elution with 5% ethyl acetate-toluene gave 3.07 g (66% yield) of 5-(4-Acetyl-3-hydroxy-2-propylphenoxy)pentanoic acid methyl ester, the titled compound, as an oil.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 2.92 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | methyl 5-bromopentanoate | 2.91 g | BrCCCCC(=O)OC | C6H11BrO2
reactant | potassium carbonate | 3.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 35 ml | CN(C=O)C | C3H7NO
product | 5-(4-Acetyl-3-hydroxy-2-propylphenoxy)pentanoic acid methyl ester | 3.07 g, 66% yield | COC(CCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C17H24O5
